US06008212
3-(2-Acetoxy-ethyl)-4-bromo-naphthalene-1-sulfonyl chloride
Potassium 3-(2-acetoxy-ethyl)-4-bromo-naphthalene-1-sulfonate (17.75 g, 43.2 mmol) was added at room temperature to a stirred solution of N,N-dimethylformamide (0.334 mL, 4.31 mmol) in thionyl chloride (63 mL, 863 mmol). The resulting mixture was placed in an oil bath at 70° C. and stirred. After 10 minutes, additional thionyl chloride (20 mL) was added to facilitate stirring. After 40 minutes at 70°, the reaction flask was fitted with a distillation head and excess thionyl chloride was removed under vacuum. The residual brown solid was mixed with diethyl ether (300 mL) and added to an ice-cold, stirred mixture of water (100 mL) and ether (100 mL). The organic phase was separated, washed with water (200 mL) and brine (100 mL), dried over magnesium sulfate, filtered, and evaporated under vacuum to afford the title compound (14.63 g).

reactant | Potassium 3-(2-acetoxy-ethyl)-4-bromo-naphthalene-1-sulfonate | 43.2 mmol, 17.75 g | C(C)(=O)OCCC=1C=C(C2=CC=CC=C2C1Br)S(=O)(=O)[O-].[K+]
reactant | N,N-dimethylformamide | 4.31 mmol, 0.334 mL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 863 mmol, 63 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-(2-Acetoxy-ethyl)-4-bromo-naphthalene-1-sulfonyl chloride | 14.63 g | C(C)(=O)OCCC=1C=C(C2=CC=CC=C2C1Br)S(=O)(=O)Cl | C14H12BrClO4S
